US05654399
6.82 g (60 mmoles) of cysteamine hydrochloride is dissolved in 50 ml of dimethylformamide, and the solution is neutralized with 8.4 ml of triethylamine. The solution is mixed with a solution of crude Boc-L-alaninal obtained by oxidizing 8.75 g (50 mmoles) of Boc-alaninol in 50 ml of dimethylformamide, and mixture is stirred overnight at room temperature. The solvent is distilled off under reduced pressure, the formed crystals are dissolved in ethyl acetate, the solution is washed with 10% citric acid and saturated aqueous sodium bicarbonate, and the ethyl acetate layer is dried. The solvent is distilled off under reduced pressure to obtain 4.93 g (42.6%) of the desired compound 9-A as white crystals. Melting point 81.0°-84.1° C. MS 232 (M+), 159 1H-NMR (CDCl3, δ) 1.24(3 H, d, J=6.6 Hz), 1.45(9 H, s), 2.1(1 H, br), 4.42(1 H, d, J=8.1 Hz)

reactant | cysteamine hydrochloride | 60 mmoles, 6.82 g | Cl.NCCS
reactant | triethylamine | 8.4 ml | C(C)N(CC)CC | C6H15N
reactant | Boc-L-alaninal | C(=O)(OC(C)(C)C)N[C@@H](C)C=O | C8H15NO3
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Boc-alaninol | 50 mmoles, 8.75 g | C(=O)(OC(C)(C)C)N[C@@H](C)CO | C8H17NO3
